US06492562B1
O. (±)-N-[(2R*,3S*)-(3-Hydroxy-2,4,4-trimethylpentanoyl)]-2-benzoxazolone
Prepared according to the method of paragraph C by reaction of N-propionyl-2-benzoxazolone with trimethylacetaldehyde. Slow addition of the aldehyde to the enolate solution over 1 hour at 0° C. gave a 9:1 ratio of the (2R*,3S*) and (2R*,3R*) isomers. The desired isomer was crystallized from 1:1 ether/hexanes, mp=90-2° C. 1H-NMR (CDCl3, 400 MHz) δ 8.04 (m, 1H), 7.23-7.29 (m, 3H), 4.32 (dq, J=3, 7 Hz, 1H), 3.79 (d, J=10 Hz, 1H), 3.41 (dd, J=3,10 Hz, 1H), 1.51 (d, J=7 Hz, 3H), 0.94 (s, 9H). 13C-NMR (CDCl3, 100 MHz) δ 178.2, 150.8, 142.0, 127.6, 125.7, 125.0, 116.3, 110.0, 84.0, 37.4, 36.2, 26.7, 18.1.

reactant | N-propionyl-2-benzoxazolone | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | trimethylacetaldehyde | CC(C=O)(C)C | C5H10O
product | (±)-N-[(2R*,3S*)-(3-Hydroxy-2,4,4-trimethylpentanoyl)]-2-benzoxazolone | O[C@@H]([C@H](C(=O)N1C(OC2=C1C=CC=C2)=O)C)C(C)(C)C | C15H19NO4
